US07709509B2
458 mg Lithium aluminium hydride were suspended in 100 ml dry tetrahydrofuran and cooled in an ice bath. To this ice cooled suspension were added 4.5 g [5-Methyl-2-(4-pentafluorosulfanyl-phenyl)-thiazol-4-yl]-acetic acid ethyl ester, dissolved in 50 ml tetrahydrofuran. The reaction mixture was stirred for one hour. Then 300 ml ethyl acetate and 20 ml saturated NH4Cl solution were added. The organic layer was separated. The aqueous phase was extracted three times with portions of 50 ml ethyl acetate. The combined organic layers were dried over MgSO4 and the solvent was removed in vacuo. The residue was purified by flash chromatography with the eluent n-heptane:ethyl acetate=2:1 to provide 1.44 g 2-[5-methyl-2-(4-pentafluorosulfanyl-phenyl)-thiazol-4-yl]-ethanol as an oil which solidified upon standing.

reactant | Lithium aluminium hydride | 458 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | [5-Methyl-2-(4-pentafluorosulfanyl-phenyl)-thiazol-4-yl]-acetic acid ethyl ester | 4.5 g | C(C)OC(CC=1N=C(SC1C)C1=CC=C(C=C1)S(F)(F)(F)(F)F)=O | C14H14F5NO2S2
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | NH4Cl | 20 ml | [NH4+].[Cl-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[5-methyl-2-(4-pentafluorosulfanyl-phenyl)-thiazol-4-yl]-ethanol | 1.44 g | CC1=C(N=C(S1)C1=CC=C(C=C1)S(F)(F)(F)(F)F)CCO | C12H12F5NOS2
